US05278161
In a manner analogous to Example 1, by condensing 3-(2-amino-1,1-diethoxyethyl)pyridine with 4-methyl-2-oxo-pentanoic acid there is obtained N-(2,2-diethoxy-2-(3-pyridyl)ethyl]-4-methyl2-oxovaleramide as a colorless, amorphous solid. Acidic hydrolysis yields 4-methyl-N-(nicotinoylmethyl)-2-oxovaleramide and subsequent ring closure yields 3-isobutyl-5-(3-pyridyl)-2(1H)-pyrazinone as a crystalline solid, melting point 195°-196° (from ethyl acetate). The conversion into the corresponding chloride, 2-chloro-3-isobutyl-5-(3-pyridyl)pyrazine, is also effected analogously to Example 1.

reactant | 3-(2-amino-1,1-diethoxyethyl)pyridine | NCC(OCC)(OCC)C=1C=NC=CC1 | C11H18N2O2
reactant | 4-methyl-2-oxo-pentanoic acid | CC(CC(C(=O)O)=O)C | C6H10O3
product | N-(2,2-diethoxy-2-(3-pyridyl)ethyl]-4-methyl2-oxovaleramide | C(C)OC(CNC(C(CC(C)C)=O)=O)(C=1C=NC=CC1)OCC | C17H26N2O4
